US07030107B2
In a similar manner to Example 1, 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(4-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (53.3 mg) was reacted with 4-(dimethylamino)piperidine (15.4 mg) to obtain 5-[3,5-bis(trifluoromethyl)benzyl]-9-[4-(dimethylamino)piperidine-1-yl]-7-(4-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine (22.6 mg, 36%).

reactant | 5-[3,5-bis(trifluoromethyl)benzyl]-9-chloro-7-(4-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 53.3 mg | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=CC=C(C=C3)F)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C24H16ClF7N2O2
reactant | 4-(dimethylamino)piperidine | 15.4 mg | CN(C1CCNCC1)C | C7H16N2
product | 5-[3,5-bis(trifluoromethyl)benzyl]-9-[4-(dimethylamino)piperidine-1-yl]-7-(4-fluorophenyl)-6-oxo-2,3,4,5-tetrahydro-6H-pyrido[2,3-b][1,5]oxazocine | 22.6 mg, 36% | FC(C=1C=C(CN2C(C3=C(OCCC2)N=C(C=C3C3=CC=C(C=C3)F)N3CCC(CC3)N(C)C)=O)C=C(C1)C(F)(F)F)(F)F | C31H31F7N4O2
